US04031093
2-n-Propoxybenzamidine hydrochloride Ethanol (100 ml.) containing 6.5 g. of ammonia was added during five minutes to a stirred suspension of ethyl 2-n-propoxybenzimidate fluoroborate (44.0 g.) in ethanol (25 ml.). The resulting solution was stirred at 25° for 20 hours. The solution was reduced to dryness and the residue partitioned between diethyl ether and 5N sodium hydroxide. The ether layer was washed with brine, dried over sodium sulfate, and concentrated. A solution of the residue in ether (500 ml.) and ethanol (50 ml.) was treated with hydrogen chloride to precipitate 2-n-propoxybenzamidine hydrochloride (28.8 g., 76.6% yield), m.p. 184°-186.5°.

reactant | 2-n-Propoxybenzamidine hydrochloride Ethanol | 100 ml | C(C)O.Cl.C(CC)OC1=C(C(=N)N)C=CC=C1
reactant | ammonia | N | H3N
reactant | ethyl 2-n-propoxybenzimidate fluoroborate | 44.0 g | F[B-](F)(F)F.C(CC)OC1=C(C(OCC)=N)C=CC=C1
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-n-propoxybenzamidine hydrochloride | 28.8 g, 76.6% yield | Cl.C(CC)OC1=C(C(=N)N)C=CC=C1 | InChI=1S/C10H14N2O.ClH/c1-2-7-13-9-6-4-3-5-8(9)10(11)12;/h3-6H,2,7H2,1H3,(H3,11,12);1H
